US06518273B1
1,1-Dimethylethyl 4-[2-Methoxy-4-(trifluoromethoxy)phenyl]-1-piperazinecarboxylate
A solution of 2-bromo-1-methoxy4-(trifluoromethoxy)benzene (Description 16, 3 g, 11 mmol), 1,1-dimethylethyl 1-piperazinecarboxylate (2.47 g) and sodium tert-butoxide (1.49 g) in toluene (100 mL) was degassed with bubbling argon. (RS)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (56 mg) and tris(dibenzylideneacetone)dipalladium (0) (13.8 mg) were added and the mixture was degassed and stirred at 80° C. for 72 h. The mixture was cooled, diluted with ether (150 mL) and filtered through celite. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography on silica gel, eluting with hexane/EtOAc (95:5 increasing to 85:15), to give the title compound (3.4 g, 82%). 1H NMR (250 MHz, CDCl3) δ1.48 (9H, s), 2.98-3.01 (4H, m), 3.58-3.61 (4H, m), 3.87 (3H, s), and 6.74-6.85 (3H, m). m/z (ES+) 377 (M+1).

reactant | 2-bromo-1-methoxy4-(trifluoromethoxy)benzene | 11 mmol, 3 g | BrC1=C(C=CC(=C1)OC(F)(F)F)OC | C8H6BrF3O2
reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 2.47 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium tert-butoxide | 1.49 g | CC(C)([O-])C.[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 13.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-Dimethylethyl 4-[2-Methoxy-4-(trifluoromethoxy)phenyl]-1-piperazinecarboxylate | 3.4 g, 82% | COC1=C(C=CC(=C1)OC(F)(F)F)N1CCN(CC1)C(=O)OC(C)(C)C | C17H23F3N2O4
